US06559343B1
Methyl 2,2,4-Trimethyl-3-silyloxypent-3-enecarboxylate
84 g (0.6 mol) of 2,2,4,4-tetramethylcyclobutane-1,3-dione and 32.4 g (0.6 mol) of sodium methylate were mixed together in 320 ml of tetrahydrofuran. 65.1 g (0.6 mol) of trimethylsilyl chloride were added dropwise and the mixture was stirred. The reaction mixture was then concentrated and the residue was taken up with diethyl ether. The solid was filtered off with suction and the mother liquor was concentrated. Yield: 135 g (89%).

reactant | 2,2,4,4-tetramethylcyclobutane-1,3-dione | 0.6 mol, 84 g | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
reactant | sodium methylate | 0.6 mol, 32.4 g | C[O-].[Na+]
reactant | trimethylsilyl chloride | 0.6 mol, 65.1 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | tetrahydrofuran | 320 ml | O1CCCC1 | C4H8O
product | Methyl 2,2,4-Trimethyl-3-silyloxypent-3-enecarboxylate | CC(CC(=O)OC)(C(=C(C)C)O[SiH3])C | C10H20O3Si
